US07504495B2
1,5-Bis(3-hydroxypropylamino)-anthraquinone (4)
1,5-Dichloroanthraquinone (2.8 g; 10 mmol) is mixed with 3-amino-1-propanol (10 mL) in DMSO (50 mL) and heated to 130° C. for 4 hours. The mixture is cooled to ˜80° and added water (150 mL). When the mixture has reached RT the formed precipitate is isolated by filtration, washed with water (2×50 mL), boiled in toluene (200 mL) and the un-dissolved product is isolated by filtration and dried. Yield: 3.2 g (90%).

reactant | 1,5-Dichloroanthraquinone | 10 mmol, 2.8 g | ClC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | 3-amino-1-propanol | 10 mL | NCCCO | C3H9NO
reactant | water | 150 mL | O | H2O
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 1,5-Bis(3-hydroxypropylamino)-anthraquinone | OCCCNC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)NCCCO)=O | C20H22N2O4
